US05656629
A solution of methyl 4-hydroxyphenylacetate (10 g, 0.06 mol) in DMF (100 ml) was added to 97% NaH (1.78 g, 0.072 mol) in DMF (60 ml) in an ice bath. The reaction mixture was stirred for 0.5 hours and then chloroacetonitrile (5.44 g, 0.072 mol) in DMF (50 ml) was added. The reaction mixture was stirred at room temperature for about 2 days, the solvent was removed in vacuo, and the residue was partitioned between water and ether. The organic layer was separated, washed with saturated Na2CO3 and then brine, and then was dried over MgSO4, filtered and concentrated in vacuo to afford 12.2 g of methyl 4-(cyanomethoxy)phenylacetate.

reactant | methyl 4-hydroxyphenylacetate | 0.06 mol, 10 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | NaH | 0.072 mol, 1.78 g | [H-].[Na+]
reactant | chloroacetonitrile | 0.072 mol, 5.44 g | ClCC#N | C2H2ClN
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | methyl 4-(cyanomethoxy)phenylacetate | 12.2 g | C(#N)COC1=CC=C(C=C1)CC(=O)OC | C11H11NO3
